US08466167B2
To a solution of methyl 3-methyl-4-((triethylsilyl)ethynyl)benzoate (from the previous step) (1.0 eq.) in THF (0.2 M), was added TBAF (0.2 eq.) slowly at 0° C. Then the reaction mixture was stirred at 0° C. for 1 hour. After warmed to ambient temperature, the reaction mixture was diluted with ethyl acetate and water. The two phases were separated, and the aqueous layer was extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous MgSO4, and concentrated en vaccuo. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-80% ethyl acetate in hexane to give methyl 4-ethynyl-3-methylbenzoate as a white solid.

reactant | methyl 3-methyl-4-((triethylsilyl)ethynyl)benzoate | CC=1C=C(C(=O)OC)C=CC1C#C[Si](CC)(CC)CC | C17H24O2Si
reactant | TBAF | 0.2 eq. | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 0.2 M | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | methyl 4-ethynyl-3-methylbenzoate | C(#C)C1=C(C=C(C(=O)OC)C=C1)C | C11H10O2
